US06150373
A solution, cooled in ice, of 200 mg (0.54 mmol) of 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one in 12 ml of dimethylformamide was treated with 22 mg (0.54 mmol) of sodium hydride (60% w/w). After 30 minutes the mixture was treated with 0.07 ml (0.6 mmol) of 3-bromocyclohexene and then heated at reflux for 4 hours. The mixture was evaporated and 30 ml of dichloromethane and 30 ml of water were added to the residue. The phases were separated and the organic phase was washed with 30 ml of water, dried over magnesium sulfate, filtered and evaporated to give 70 mg (29%) 3-(2,6-dichlorophenyl)-1-[2-cyclohexen-1(RS)-yl]-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a brown oil. [Mass spectrum (ESI) MH+ =453].

reactant | 3-(2,6-dichlorophenyl)-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 0.54 mmol, 200 mg | ClC1=C(C(=CC=C1)Cl)N1C(NC2=NC(=NC=C2C1)S(=O)(=O)C)=O | C13H10Cl2N4O3S
reactant | sodium hydride | 0.54 mmol, 22 mg | [H-].[Na+]
reactant | 3-bromocyclohexene | 0.6 mmol, 0.07 ml | BrC1C=CCCC1 | C6H9Br
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 3-(2,6-dichlorophenyl)-1-[2-cyclohexen-1(RS)-yl]-7-methanesulfonyl-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 70 mg, 29% | ClC1=C(C(=CC=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C1C=CCCC1)=O | C19H18Cl2N4O3S
